US04533731
In 15 ml of absolute ethyl alcohol was dissolved 0.6 g of 1-(3-diethylaminopropyl)-3,5-diaminoindazole, and into the solution was introduced dried hydrogen chloride gas under cooling with ice. To the solution was added anhydrous diethyl ether to separate crystals. Then the crystals were obtained by filtration and dried to give 1-(3-diethylaminopropyl)-3,5-diaminoindazole trihydrochloride having the following analytical value.

reactant | 1-(3-diethylaminopropyl)-3,5-diaminoindazole | 0.6 g | C(C)N(CCCN1N=C(C2=CC(=CC=C12)N)N)CC | C14H23N5
reactant | hydrogen chloride | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | ethyl alcohol | 15 ml | C(C)O | C2H6O
product | 1-(3-diethylaminopropyl)-3,5-diaminoindazole trihydrochloride | Cl.Cl.Cl.C(C)N(CCCN1N=C(C2=CC(=CC=C12)N)N)CC | InChI=1S/C14H23N5.3ClH/c1-3-18(4-2)8-5-9-19-13-7-6-11(15)10-12(13)14(16)17-19;;;/h6-7,10H,3-5,8-9,15H2,1-2H3,(H2,16,17);3*1H
